US07834000B2
tert-Butyl-4-((2-(2,4-dimethoxybenzylamino)pyridin-3-yl)methylamino)piperidine-1-carboxylate
To a stirred solution of N-(2,4-Dimethoxybenzyl)-3-(aminomethyl)pyridin-2-amine (2.04 mmol) and tert-butyl 4-oxopiperidine-1-carboxylate (0.41 g, 2.04 mmol) in DCE (8 ml) and AcOH (115 μL, 2.04 mmol) was added NaBH(OAc)3 (0.43 g, 2.04 mmol) and the reaction stirred at RT until judged complete by LCMS. The reaction mixture was diluted with DCM and sat. aq. Na2CO3, the layers were separated and the organic layer was dried (Na2SO3) and evaporated to dryness. Purification by column chromatography (MeOH/DCM) gave the desired product (0.64 g, 69%). LC/MS (10% to 99%): M/Z (M+H)+ (obs)=457; tR=2.19.

reactant | N-(2,4-Dimethoxybenzyl)-3-(aminomethyl)pyridin-2-amine | 2.04 mmol | COC1=C(CNC2=NC=CC=C2CN)C=CC(=C1)OC | C15H19N3O2
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 2.04 mmol, 0.41 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | AcOH | 2.04 mmol, 115 μL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 2.04 mmol, 0.43 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 8 ml | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | tert-Butyl-4-((2-(2,4-dimethoxybenzylamino)pyridin-3-yl)methylamino)piperidine-1-carboxylate | 0.64 g, 69% | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC=1C(=NC=CC1)NCC1=C(C=C(C=C1)OC)OC | C25H36N4O4
